US08114872B2
(R)—N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-4-(7-(5-(1-aminoethyl)-2-fluoropyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine
Add NH2NH2—HCOOH (Pre-prepared, 1 mL) to a solution of (R)—N-(2-(1H-1,2,3-triazol-1-yl)ethyl)-4-(7-(5-(1-azidoethyl)-2-fluoropyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine (250 mg, 513.84 μmol) in ethanol (10 mL). Cool the mixture to 0° C. and add Raney Nickel (0.5 g, 8.52 mmol, wet with water as it packed). Stir the solution at RT for another 1.5 h, filter Raney Nickel out, and wash with methanol. Dilute filtrate with chloroform/IPA (3/1) and wash with saturated sodium carbonate. Dry the organic phase over sodium sulfate and concentrate in vacuo to give a brown tar. Purify the solid by passing through a FCC (10% methanol in DCM) to give the title compound as a pale brown solid (200 mg, 85%). MS (ES) m/z 461 [M+1]+.

reactant | NH2NH2 HCOOH | 1 mL | NN.C(=O)O
reactant | (R)—N-(2-(1H-1,2,3-triazol-1-yl)ethyl)-4-(7-(5-(1-azidoethyl)-2-fluoropyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine | 513.84 μmol, 250 mg | N1(N=NC=C1)CCNC1=NC=CC(=N1)C1=CC2=C(S1)C(=CC=C2)C2=CC(=NC=C2[C@@H](C)N=[N+]=[N-])F | C23H19FN10S
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Raney Nickel | 8.52 mmol, 0.5 g | [Ni] | Ni
product | (R)—N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-4-(7-(5-(1-aminoethyl)-2-fluoropyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine | 200 mg, 85% | N1(N=NC=C1)CCNC1=NC=CC(=N1)C1=CC2=C(S1)C(=CC=C2)C2=CC(=NC=C2[C@@H](C)N)F | C23H21FN8S
